US05235109
55 g (0.5 mole) of resorcinol were suspended in 250 ml of dichloro ethane and at 20° C. 67 g (0.502 mole) of anhydrous aluminum chloride were added. To the obtained homogeneous dark solution, containing the hydrogen-aluminum-trichloro-3-hydroxy-phenolate, 77.2 g (0.5 mole) of phenyl-acetyl chloride in 100 ml of dichloro ethane were added over one hour while the temperature raised to 35°-40° C. The reaction mixture was stirred for one hour, the solution thus obtained was added to an aqueous hydrochloric acid solution, the two layers were separated, the organic layer was washed with water to neutral, the solvent was distilled off and the residue was optionally crystallized from toluene. 96.9 g of 2,4-dihydroxy-phenyl-benzyl-ketone were obtained, m.p.: 112°-114° C., yield: 85%. After an optional recrystallization from toluene the melting point was 113°-114° C. Elemental analysis for C14H12O3 (Mw: 228):

reactant | resorcinol | 0.5 mole, 55 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | aluminum chloride | 0.502 mole, 67 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenyl-acetyl chloride | 0.5 mole, 77.2 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloro ethane | 250 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloro ethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 2,4-dihydroxy-phenyl-benzyl-ketone | 96.9 g, yield: 85% | OC1=C(C=CC(=C1)O)C(C1=CC=CC=C1)C(=O)C(C1=CC=CC=C1)C1=C(C=C(C=C1)O)O | C27H22O5
